Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypoglycemia
 
Major Surgical or Invasive Procedure:
Hemodialysis MWF

 
History of Present Illness:
___ with T2DM, ESRD on HD, and HTN who presents with 
hypoglycemia. Blood sugar was 32 at home and patient was 
somnolent/obtunded, EMS was called. She was also seen in the ED 
___ with a blood sugar of 26 and was discharged home. She has 
not felt well for the past few days with congestion and cough 
productive of white phlegm. As a result, she has not been taking 
good PO and missed 2 HD sessions last week (only went on 
___, normally MWF at ___). Prior to the day 
of admission, she reports blood sugars of 90-150.  
In the ED, initial VS were: 97.1 54 164/64 18 96% RA. Initial 
glucose was 71 after receiving glucose in the field. She 
required a femoral stick for labs and when lying flat 
afterwards, became hypoxic to 75% on RA. Family and the patient 
report that she appeared fine during this supposed hypoxic 
event, she denies SOB. Labs notable for Cr 10, WBC 12.2, nl 
electrolytes. CXR notable for mild pulm edema, but largely 
unchanged from prior in ___.  
 
On arrival to the floor, patient has no complaints. She does not 
know why she continued to take her insulin despite not eating 
much food. Denies SOB.  

 
Past Medical History:
IDDM2 (dx ___ yrs ago), mult admissions for uncontrolled DM  
ESRD on hemodialysis (M, W, F)  
HTN  
Hypercholestolemia  
PSH:  
Jump graft revision with thrombectomy of right  
upper extremity AV graft ___  
___ RUE AVG revision

 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
ADMISSION EXAM:
VS - Temp ___ BP 144/74 HR 55 RR 22 ___  
GENERAL - well-appearing woman in NAD, comfortable, appropriate  

HEENT - NC/AT, PERRLA, MMM  
NECK - supple, JVD hard to assess given habitus  
LUNGS - Coarse breath sounds in the left lung fields and 
diminished BS at the bases bilat  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, obese/soft/NT  
EXTREMITIES - WWP, 1+ non-pitting edema of the LEs, marked 
tissue swelling around feet which appears chronic  
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, gait 
deferred  
LABS: Please see attached  

DISCHARGE EXAM:
VS - 97.8, 162/D, 60, 16, 98% on RA
___ 283, 183, 475, 168
GENERAL - obese middle aged female. alert, oriented
HEENT - NC/AT, PERRLA, MMM
NECK - supple, JVD hard to assess given habitus
LUNGS -CTAB, no w/r/r, no tachypnea or accessory muscle use
HEART - rrr, no MRG, nl S1-S2
ABDOMEN - NABS, obese/soft/NT
EXTREMITIES - WWP, no e/c/c. left ankle deformity is chronic
SKIN - no rashes or lesions
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, gait 
deferred
 
Pertinent Results:
ADMISSION LABS:

___ 09:40PM BLOOD WBC-12.2* RBC-4.62# Hgb-11.5*# Hct-37.2# 
MCV-80* MCH-24.8* MCHC-30.8* RDW-18.3* Plt ___
___ 09:40PM BLOOD Neuts-75* Bands-5 Lymphs-11* Monos-7 
Eos-1 Baso-0 ___ Metas-1* Myelos-0
___ 06:00AM BLOOD ___ PTT-35.2 ___
___ 09:40PM BLOOD Glucose-75 UreaN-42* Creat-10.3*# Na-138 
K-5.1 Cl-97 HCO3-22 AnGap-24*
___ 09:40PM BLOOD Calcium-8.4 Phos-6.2*# Mg-2.2
___ 09:54PM BLOOD ___ pO2-45* pCO2-49* pH-7.34* 
calTCO2-28 Base XS-0 Comment-GREEN TOP 
___ 09:54PM BLOOD Glucose-74 Lactate-0.8 Na-135 K-5.3* 
Cl-99 calHCO3-26

DISCHARGE LABS:

___ 06:26AM BLOOD WBC-13.7* RBC-4.51 Hgb-10.7* Hct-35.8* 
MCV-79* MCH-23.7* MCHC-29.9* RDW-18.9* Plt ___
___ 06:26AM BLOOD Glucose-321* UreaN-60* Creat-8.2*# Na-133 
K-5.2* Cl-90* HCO3-25 AnGap-23*
___ 06:26AM BLOOD Calcium-8.5 Phos-4.1 Mg-2.4

PERTINENT MICRO/PATH:
NONE

PERTINENT IMAGING:

CXR: AP and lateral views of the chest are compared to previous 
exams 
from ___ and ___.  Again seen are 
indistinct 
pulmonary vascular markings.  There is no effusion.  Cardiac 
silhouette is enlarged but unchanged.  No acute osseous 
abnormality is detected. 
IMPRESSION:  Mild pulmonary edema without superimposed acute 
consolidation. 

CTPA:
1.  There is no central PE; however, because of motion artifact, 
the exam is
non-conclusive distally.  There is no acute aortic syndrome.
2.  Possible elevated right heart pressure with reflux of 
contrast in inferior
vena cava and hepatic veins.
3.  Mildly enlarged central lymph nodes are of unknown 
chronicity.
4.  Possible tracheobronchomalacia.
5.  No significant lung process.

LUNG SCAN:
Prominent cardiac silhouette and elevated right hemidiaphragm. 
Scattered
non-segmental perfusion defects are matched on ventilation 
images. There is no
evidence of right lung abnormality. 
 
Chest x-ray shows mild to moderate pulmonary edema and 
cardiomegaly. No focal
opacities. 
 
IMPRESSION: Low likelihood ratio for acute pulmonary embolism.

 
Brief Hospital Course:
___ with T2DM, ESRD on HD and HTN who presents with hypoglycemia 
and developed hypoxia in the ED. 
 
#Hypoxia: Pt had one episode of desat in the ED which was 
initially thought to be due to pulmonary edema given the 
patient's missed HD two times over the previous week. However, 
after dialysis and 4L taken off, pt continued to have hypoxia on 
room air. Of note, she would be asymptomatic and breathing 
normally during these times. ABG and CXR were unrevealing. Her 
exam was notable for wheezing bilaterally, so she was treated 
with a steroid burst and azithromycin for likely RAD (recent URI 
symptoms in addition to smoking history). Her wheezing improved, 
however she continued to have episodes of hypoxia on room air. 
CTPA was performed to rule out PE, and this was inconclusive due 
to motion artifact. A lung scan revealed low probability PE. The 
only notable finding on her CT was intermittent collapse of the 
trachea likely due to tracheobronchomalacia. Interventional 
pulmonology was consulted, who felt this was unlikely causing 
her hypoxia and would not require treatment if she was not 
symptomatic. Over the next ___ days, no further hypoxic episodes 
were observed. She breathed comfortably on room air. She was 
discharge with recommendations to have outpatient sleep studies 
and pulmonary function tests. 

#T2DM and Hypoglycemia: Likely due to poor PO intake in the 
setting of URI symptoms and continuing her long acting insulin. 
Last A1c was 5.9% in ___. She appears to have a poor 
understanding of managing her chronic illnesses. Has also missed 
recent outpatient appts at HCA. She had minimal requirements on 
ISSH, suggesting either her insulin dose at home was too high or 
she has been eating less here at the hospital. Once pt was 
started on steroids for respiratory problems, her blood sugars 
increased. ___ was consulted due to her poor diabetic 
control, and they recommended an outpatient regimen of 70/30 - 
20 units with breakfast and 10 units with dinner. The patient 
was counseled heavily on her insulin regimen and given 
contingency instructions for when her sugars remain too low. 

#HTN: Initially felt to be due to missed HD appointments, fluid 
overload, and poor medication compliance. She was continued on 
home amlodipine, metoprolol, and clonidine patch with continued 
poor control. Lisinopril was added and uptitrated to 10mg daily. 
This can be further uptitrated as an outpatient.

#ESRD on HD: Missed last 2 sessions due to illness. No urgent 
infications for HD at admission. Continued MWF HD with daily 
chem-10 to monitor electrolytes. Continued sevelamer, folic 
acid, and vit B complex. 
 
#HLD: continued pravastatin, ASA

#GERD: contined pepcid 

Transitional issues:
#Recommended for further workup of hypoxia: outpatient sleep 
study and PFTs, dedicated imaging of the trachea for diagnosis 
of TBM
#HTN: uptitrate lisinopril as needed
#Hypoglycmia: titrate new 70/30 regimen as needed to avoid lows 
and/or highs
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Clonidine Patch 0.2 mg/24 hr 1 PTCH TD Frequency is Unknown 
3. Famotidine 20 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Metoprolol Tartrate 50 mg PO BID 
6. Pravastatin 20 mg PO DAILY 
7. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
8. Aspirin 81 mg PO DAILY 
9. Vitamin B Complex 1 CAP PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. NPH insulin human recomb *NF* 30 units Subcutaneous qAM 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Famotidine 20 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Pravastatin 20 mg PO DAILY 
7. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
8. Vitamin B Complex 1 CAP PO DAILY 
9. Azithromycin 250 mg PO Q24H Duration: 2 Days 
last day ___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0
10. Nephrocaps 1 CAP PO DAILY 
RX *B complex-vitamin C-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0
11. Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
12. PredniSONE 40 mg PO DAILY Duration: 2 Days 
last day ___ 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*2 Tablet 
Refills:*0
13. 70/30 20 Units Breakfast
70/30 10 Units Dinner
RX *insulin NPH & regular human [Humulin 70/30 Pen] 100 unit/mL 
(70-30) inject subcutaneously twice a day Disp #*20 Unit 
Refills:*0
14. Clonidine Patch 0.2 mg/24 hr 1 PTCH TD QTUES 
15. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hypoglycemia
End stage renal disease
Type 2 diabetes mellitus
Chronic obstructive pulmonary disease
Tracheobronchomalacia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for low blood sugars. You were seen 
by diabetes specialists, who recommended you use the following 
regimen at home: 20 units of insulin 70/30 with breakfast and 10 
units of insulin 70/30 with dinner. Please call your PCP or the 
diabetes doctor if your finger sticks are repeatedly less than 
90 or more than 150. If you skip a meal, please cut the doses of 
insulin in half for that meal.

While you were here, your oxygen levels were periodically low. 
You were given steroids and azithromycin to help with wheezing. 
You had multiple studies done which eventually showed a collapse 
of your upper airway while breathing, called 
tracheobronchomalacia. For further workup of this problem, we 
recommend some outpatient studies, including pulmonary function 
test, sleep study, and others. Your primary care physician can 
order these for after you have left the hospital.

Please be sure to go to dialysis every time, even if you do not 
feel well. Lastly, you were started on a medicine called 
lisinopril for your high blood pressures.

We made the following changes to your medications:
STOP NPH insulin
START insulin 70/30
START prednisone daily through ___
START azithromycin daily through ___
START albuterol inhaler as needed for shortness of breath
START lisinopril 
START nephrocaps
CHANGE metoprolol tartrate 50mg twice a day to metoprolol 
succinate XL 100mg daily
 
Followup Instructions:
___